US06518257B1
(iii) Production of 6-{4-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]phenyl}-N-methyl-2-pyridinecarboxamide
By the reaction in the same manner as in Example 4-(iii) using 6-{4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenyl}-N-methyl-2-pyridinecarboxamide (1.44 g) and pyridine hydrochloride (550 mg), the title compound (255 mg) was obtained as a colorless amorphous powder.

reactant | 6-{4-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]phenyl}-N-methyl-2-pyridinecarboxamide | 1.44 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC(=N1)C(=O)NC | C39H36N4O2
reactant | pyridine hydrochloride | 550 mg | Cl.N1=CC=CC=C1
product | 6-{4-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]phenyl}-N-methyl-2-pyridinecarboxamide | 255 mg | OC(C(C)C)(C=1N=CNC1)C1=CC=C(C=C1)C1=CC=CC(=N1)C(=O)NC | C20H22N4O2
